US06759554B2
N-(2-Methoxyphenyl)acetamide
An oven-dried resealable Schlenk tube was charged with CuI (2.0 mg, 0.0105 mmol, 1.0 mol %), acetamide (180 mg, 3.05 mmol), K3PO4 (450 mg, 2.12 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (13 μL, 0.108 mmol, 10 mol %), 2-iodoanisole (135 μL, 1.04 mmol) and dioxane (1.0 mL) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 90° C. for 23 h. The resulting light green suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with 10 mL of ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×15 cm; hexane-ethyl acetate 2:3; 20 mL fractions). Fractions 10-16 provided 162 mg (94% yield) of the product as white crystals. The 1H NMR spectrum was in accord with that reported. Hibbert, F.; Mills, J. F.; Nyburg, S. C.; Parkins, A. W. J. Chem. Soc., Perkin Trans. 1 1998, 629.

reactant | acetamide | 3.05 mmol, 180 mg | C(C)(=O)N | C2H5NO
reactant | K3PO4 | 2.12 mmol, 450 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | trans-1,2-Cyclohexanediamine | 0.108 mmol, 13 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | 2-iodoanisole | 1.04 mmol, 135 μL | IC1=C(C=CC=C1)OC | C7H7IO
catalyst | CuI | 0.0105 mmol, 2.0 mg | [Cu]I
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | N-(2-Methoxyphenyl)acetamide | 162 mg, 94% yield | COC1=C(C=CC=C1)NC(C)=O | C9H11NO2
